Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Presyncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ ___ speaking woman with hx HTN, HLD, 
possible prior stroke, now presenting with presyncope.  
 
History is per ___ interpreter as obtained by neurology and 
the ED. She was visiting ___ on a 4-day trip. On ___ she felt 
"okay" upon waking this morning, which improved after she had 
breakfast and lunch. She notes that the airport lost her 
luggage, which contained her medications. She had a few pills in 
her carry-on, but has been unable to take her medications for 
the last several days.
  
At around 6:45PM, the tour group went down to a subway stop. 
While going down the stairs, Ms. ___ felt unwell and "had 
to tell myself to walk." While standing on the platform, she had 
to lean against the wall to support herself. She then slid down 
the wall and sat on the ground. A few seconds later, she felt 
the sudden onset of a "squeezing" occipital headache. This was 
reportedly similar to an event she had ___ year prior which may 
have been a stroke. She had her eyes closed at this point and 
cannot report on diplopia or blurry vision. She reports that her 
"whole body" felt weak. She reports that her hands were 
"shivering." 
 
She was brought to the ___ ED for further evaluation.  
In the ED, initial vital signs were:  
 97.6 80 147/68 20 100% RA  

A code stroke was called. Exam was notable for nonfocal 
neurologic exam.  
 - Labs were notable for normal CBC, negative trop, normal 
coags, Cr 1.0.  
 - Imaging:  
CTA head/neck with no evidence of acute neurologic event.  
EKGs and telemetry were notable for bradycardia with Mobitz type 
1 AV block. She was admitted for further monitoring.  
Vitals prior to transfer were: 98.0 87 131/67 17 98% RA  
 
Upon arrival to the floor, she reports mild persistent headache. 
 

 
Past Medical History:
Hypertension  
GERD  
HLD  
Osteoporosis  
Possible prior CVA in ___ and ___  

 
Social History:
___
Family History:
Negative for CVA
 
Physical Exam:
Admission Physical Exam:
VITALS: 98.2 136/69 58 18 100RA  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT: normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  
CARDIAC: Bradycardic, irregular, normal S1/S2, no murmurs rubs 
or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

Discharge Physical Exam:
VS:  98.9 95 134/74 18 100%RA
GENERAL: NAD
HEENT: no JVD 
LUNGS: CTAB
HEART:  Irreg, S1 and S2, no m/r/g
ABDOMEN: soft/NT/ND.  
EXTREMITIES: no ___ edema  
NEURO: awake
 
Pertinent Results:
==Admission Labs==
___ 12:00PM BLOOD WBC-6.6 RBC-3.87* Hgb-11.5 Hct-34.4 
MCV-89 MCH-29.7 MCHC-33.4 RDW-12.8 RDWSD-41.1 Plt ___
___ 12:00PM BLOOD ___ PTT-29.7 ___
___ 06:55AM BLOOD Glucose-78 UreaN-13 Creat-0.8 Na-144 
K-4.3 Cl-110* HCO3-22 AnGap-16
___ 06:55AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.1
___ 07:54PM BLOOD Glucose-84 Na-141 K-3.2* Cl-106 
calHCO3-21

==Discharge Labs==
___ 07:11AM BLOOD WBC-5.2 RBC-3.99 Hgb-11.7 Hct-35.1 MCV-88 
MCH-29.3 MCHC-33.3 RDW-12.8 RDWSD-41.0 Plt ___
___ 07:11AM BLOOD Glucose-96 UreaN-11 Creat-0.9 Na-141 
K-3.8 Cl-107 HCO3-23 AnGap-15
___ 07:11AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.1

==Studies==
Cardiovascular Report ECG Study Date of ___  7:35:52 ___ 
Clinical indication for EKG: R00.1 Bradycardia, unspecified  
Sinus rhythm. Second degree A-V block Type I. No previous 
tracing available for comparison.  
TRACING #1 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
59 54 ___   0 40 36 
 

Cardiovascular Report ECG Study Date of ___  8:14:12 ___  
Appears to be sinus rhythm with a second degree heart block 
which is likely  Type I in etiology. There is a lot of baseline 
artifact on this ECG. Would suggest a repeat rhythm strip 
without baseline artifact to be sure of the accurate rhythm 
diagnosis. Compared to the previous tracing of ___ the heart 
rate is slightly higher but the A-V conduction abnormalities 
persist. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
71 56 ___ 38 22 
 
CTA HEAD W&W/O C & RECONS Study Date of ___ 7:52 ___ 
EXAMINATION:  CTA HEAD AND CTA NECK 
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain 
without contrast material. Subsequently, helically acquired 
rapid axial 
imaging was performed from the aortic arch through the brain 
during the 
infusion of 70 mL of Omnipaque intravenous contrast material. 
Three-dimensional angiographic volume rendered, curved 
reformatted and 
segmented images were generated on a dedicated workstation. This 
report is 
based on interpretation of all of these images. 
  
DOSE:  Total DLP (Head) = 2,301 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of infarction, hemorrhage, 
edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
  
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear besides mild mucosal 
thickening in the maxillary sinuses. The visualized portion of 
the orbits are unremarkable.  Right mandibular molar dental 
caries noted with periapical lucencies. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  Fenestrated anterior communicating 
artery is incidentally noted.  The left posterior communicating 
artery is clearly identified however the right is not seen.  The 
dural venous sinuses are patent. 
  
CTA NECK: 
The carotid and vertebral arteries and their major branches 
appear normal with no evidence of stenosis or occlusion. There 
is no evidence of internal carotid stenosis by NASCET criteria.  
Mild atherosclerotic calcifications seen at the aortic arch.  
Common origin of the brachiocephalic and left common carotid 
artery is noted.  There is partially calcified atherosclerotic 
plaque at the origin of the left subclavian artery which is mild 
to moderately narrowed. 
  
OTHER: 
The visualized portion of the lungs are clear.  The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size criteria. 
  
IMPRESSION:   
No acute intracranial process. 
Normal head and neck CTA besides mild to moderate narrowing of 
the left 
subclavian artery due to partially calcified atherosclerotic 
plaque. 

 
Brief Hospital Course:
Ms. ___ is a ___ female who was admitted to the 
hospital while visiting ___ for feeing faint in a train 
station.  She was found to be in Second Degree Heart Block, Type 
I (___).  She was observed on telemetry and remained 
stable.  She tolerated ambulation and felt well.  She does not 
require any specific treatment for this condition.  She is being 
discharged to return to ___.  She should see her physician 
upon return to ___ and continue her usual medications upon 
return to ___.

# Second Degree Hear Block, Type I: Pt presented to ___ from a 
T station after an episode of presyncope.  Her initial ECG 
showed second degree heart block with a HR of 59.  The pt was 
observed on telemetry and remained in type I second degree heart 
block with heart rates ___.  The pt was asymptomatic in the 
hospital and was able to ambulate without issue.  She will not 
require any additional follow up or therapy for her second 
degree heart block.

# Presyncope: The etiology of the pt's presyncope is unclear.  
The pt was evaluated by the neurology team on initial 
presentation, but she was found not to have had an acute 
neurologic event.

# History of CVA: Continued colistazol

# HTN: Continued valsartan

# GERD: Omeprazole, as ___ PPI not on ___ formulary.

Transitional Issues:
-Pt admitted and found to have second degree heart block, type I 
(___) and does not require any additional work up or 
evaluation
-Pt should see her physician in ___ soon after returning.
-Some of pt's home medications were not available, but she will 
return to her home medication regimen upon return to ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
**This medication list is incomplete as some of pt's ___ 
medications were not available**
1. Cilostazol 100 mg PO BID 
2. Bifidobacterium animalis unknown  oral unknown 
3. Valsartan 80 mg PO DAILY 
4. icosapent ethyl 1 gram oral unknown 
5. Alendronate Sodium 5 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Cilostazol 100 mg PO BID 
RX *cilostazol 100 mg 1 tablet(s) by mouth Twice Daily Disp #*10 
Tablet Refills:*0
2. Valsartan 80 mg PO DAILY 
RX *valsartan 80 mg 1 tablet(s) by mouth Daily Disp #*5 Tablet 
Refills:*0
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*5 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Second Degree Heart Block, Type I (Wenchebach)

Secondary Diagnosis:
Hypertension
Previous CVA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after you felt faint in a T 
station.  You were found to have a heart rhythm called 
Wenchebach (Type I Second Degree Heart Block).  This does not 
require treatment.  You were monitored and you are stable.  We 
recommend that you see your physician when you return to ___.  
Please continue your usual medications when you return to ___. 
 It was a pleasure caring for you.

Sincerely,

Your ___ Team
 
Followup Instructions:
___